US07842685B2
2-(3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-propan-2-amine (0.081 g, 0.20 mmol) and methyl acrylate (0.18 mL, 2.00 mmol) were combined in a sealed tube and heated neat at 100° C. for 1 day, during which LC-MS indicated completion of reaction. The cooled reaction mixture was diluted with CH2Cl2 and washed with aqueous saturated NaHCO3 solution and brine. The organic layer was dried (MgSO4), filtered, and concentrated in vacuo. ISCO purification with 5% to 25% EtOAc/Hexanes afforded methyl 3-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-ylamino)propanoate as a white amorphous solid. MS (ESI) m/z: Calculated: 489.2; Observed: 490.1 (M++1).

reactant | 2-(3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-propan-2-amine | 0.20 mmol, 0.081 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(C)(C)N | C24H22FN3S
reactant | methyl acrylate | 2.00 mmol, 0.18 mL | C(C=C)(=O)OC | C4H6O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl 3-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-ylamino)propanoate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(C)(C)NCCC(=O)OC | C28H28FN3O2S
